US03968138
N3,N3 -diethyl-2,4-dinitro-6-cyano-1,3-phenylenediamine
A solution of 4.33 g. (0.0144 mole) of N,N-diethyl-3-chloro-2,6-dinitro-4-cyanoaniline, 6.40 g. (0.0288 mole) of a 7.66% solution of ammonia in absolute ethanol, and 15 ml. of dimethoxyethane was sealed in a Pyrex reaction tube and alloed to stand at room temperature for 72 hours. The contents were distilled to dryness at reduced pressure and extracted with 100 ml. of boiling chloroform. The filtered chloroform extract was evaporated to dryness and the residual orange solid taken up in hot 95% ethanol. Upon cooling, the product crystallized and was isolated by filtration to give 1.51 g. (37.3%) or an orange, crystalline solid melting at 142°-145°C. Recrystallization from 95% ethanol gave the desired product, m.p. 145.5°-146.5°C.

reactant | N,N-diethyl-3-chloro-2,6-dinitro-4-cyanoaniline | 0.0144 mole | C(C)N(C1=C(C(=C(C=C1[N+](=O)[O-])C#N)Cl)[N+](=O)[O-])CC | C11H11ClN4O4
reactant | ammonia | N | H3N
reactant | dimethoxyethane | C(OC)COC | C4H10O2
solvent | ethanol | C(C)O | C2H6O
product | diethyl-2,4-dinitro-6-cyano-1,3-phenylenediamine | C(C)N(C=1C(=C(C(=CC1[N+](=O)[O-])C#N)N)[N+](=O)[O-])CC | C11H13N5O4
